US07705023B2
(b) (6-Bromopyrid-3-yl)cyclopentylamine
To a solution of 6-bromopyrid-3-ylamine (2.0 g, 11.6 mmol) in CH2Cl2 (30 mL) was added cyclopentanone (1.3 mL) 15.5 mmol), followed by TiCl4 (1.4 mL, 12.7 mmol) in CH2Cl2 (20 mL) and after stirring for 3.5 h at room temperature, NaBH3CN (2.17 g, 34.5 mmol) was added portion-wise. The reaction was left to stir overnight at ambient temperature, diluted with t-BuOMe (200 mL), washed with water, brine and dried (Na2SO4). Solvent removal and purification by chromatography afforded the sub-title compound (880 mg, 40%).

reactant | 6-bromopyrid-3-ylamine | 11.6 mmol, 2.0 g | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | cyclopentanone | 15.5 mmol, 1.3 mL | C1(CCCC1)=O | C5H8O
reactant | NaBH3CN | 34.5 mmol, 2.17 g | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | t-BuOMe | 200 mL | C(C)(C)(C)OC | C5H12O
catalyst | TiCl4 | 12.7 mmol, 1.4 mL | Cl[Ti](Cl)(Cl)Cl
product | (6-Bromopyrid-3-yl)cyclopentylamine | 880 mg, 40% | BrC1=CC=C(C=N1)NC1CCCC1 | C10H13BrN2
